US08003624B2
1-Acetyl-6-cyanoindoline (2.4 g, 12.9 mmol, Tetrahedron, 1967, 23, 3823) was stirred in a solution containing 5 N NaOH (20 mL), MeOH (60 mL) and dioxane (60 mL). The mixture was stirred at RT over the weekend. Solvent was removed under reduced pressure and the residue was partitioned between water (100 mL) and DCM (100 mL). Aqueous layer was extracted with DCM (2×75 mL). Combined organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure. Chromatography (10-30% EtOAc/hexanes) provided 6-cyanoindoline (0.95 g, 51%) which was then converted to 12A in a manner similar to that found in Example 4, Step 1.

reactant | 1-Acetyl-6-cyanoindoline | 12.9 mmol, 2.4 g | C(C)(=O)N1CCC2=CC=C(C=C12)C#N | C11H10N2O
reactant | NaOH | 5 N, 20 mL | [OH-].[Na+]
reactant | MeOH | 60 mL | CO | CH4O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 6-cyanoindoline | 0.95 g, 51% | C(#N)C1=CC=C2CCNC2=C1 | C9H8N2
